US04118502
2-(5-Methyl-4-imidazolylmethylthio)ethylamine is added to a solution of potassium thiooxamate in water. After 2 hours at room temperature the solution is acidified with hydrochloric acid to yield N-[2-(5-methyl-4-imidazolylmethylthio)-ethylamino] thiooxamic acid. This is then reacted with 2-(5-methyl-4-imidazolylmethylthio)ethylamine and trilead tetroxide according to the general procedure of Example 2 to yield N,N'-bis-[2-(5-methyl-4-imidazolylmethylthio)ethyl]amidinoformic acid.

reactant | 2-(5-Methyl-4-imidazolylmethylthio)ethylamine | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | potassium thiooxamate | C(C(=O)N)(=S)[O-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N-[2-(5-methyl-4-imidazolylmethylthio)-ethylamino] thiooxamic acid | CC1=C(N=CN1)CSCCNNC(C(=S)O)=O | C9H14N4O2S2
